US09233974B2
9-Bromo-3-(2-bromoacetyl)-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one
A 20 mL vial with a stirbar was charged with 3-acetyl-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one (100 mg, 0.366 mmol), 9:1 CH2Cl2/MeOH (3.4 mL) and pyridinium tribromide (246 mg, 0.769 mmol). The solution was heated to 35° C. After 30 minutes, the reaction was judged complete. The mixture was cooled to ambient temperature, diluted with EtOAc (50 mL) and sequentially washed with saturated aqueous Na2S2O3 (20 mL), 2% aqueous NaHCO3 (20 mL), water (20 mL), and brine (10 mL). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure resulting in 9-bromo-3-(2-bromoacetyl)-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one (68 mg, 41%): 400 MHz 1H NMR (CDCl3) δ 8.03-8.01 (m, 1H), 7.85 (d, J=8.2 Hz, 1H), 7.82 (s, 1H), 7.71 (s, 1H), 7.67 (s, 1H), 5.19 (s, 2H), 4.74 (dd, J=4.1, 4.1 Hz, 1H), 4.45 (s, 2H), 3.37-3.29 (m, 1H), 2.99-2.92 (m, 1H), 2.59-2.46 (m, 2H).

reactant | 3-acetyl-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one | 0.366 mmol, 100 mg | C(C)(=O)C=1C=CC2=C(COC=3C=C4C(=CC23)CCCC4=O)C1 | C19H16O3
reactant | CH2Cl2 MeOH | 3.4 mL | C(Cl)Cl.CO
reactant | pyridinium tribromide | 0.769 mmol, 246 mg | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 9-Bromo-3-(2-bromoacetyl)-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one | BrC1C(C=2C(=CC=3C4=C(COC3C2)C=C(C=C4)C(CBr)=O)CC1)=O | C19H14Br2O3
